US06140333
4-Amino-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-Phenylacetyl}piperidine monohydrochloride
To a solution of 220 mg of 4-t-butoxycarbonylaminopiperidine and 256 mg of (2R)-2-((1R)-3, 3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid in 8 ml of chloroform, 203 mg of 1-hydroxybenzotriazole and 201 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide were added sequentially at room temperature, followed by stirring for 3 hours at the same temperature. The reaction mixture was diluted with ethyl acetate and, after sequential washing with an aqueous solution of 1N sodium hydroxide and brine, dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and 314 mg of the title compound was obtained by purifying the resultant residue by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=2/1).

reactant | 4-t-butoxycarbonylaminopiperidine | 220 mg | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | (2R)-2-((1R)-3, 3-difluorocyclopentyl)-2-hydroxy-2-phenylacetic acid | 256 mg | FC1(C[C@@H](CC1)[C@](C(=O)O)(C1=CC=CC=C1)O)F | C13H14F2O3
reactant | 1-hydroxybenzotriazole | 203 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 201 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Amino-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-Phenylacetyl}piperidine monohydrochloride | 314 mg | Cl.NC1CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | InChI=1S/C18H24F2N2O2.ClH/c19-17(20)9-6-14(12-17)18(24,13-4-2-1-3-5-13)16(23)22-10-7-15(21)8-11-22;/h1-5,14-15,24H,6-12,21H2;1H/t14-,18+;/m1./s1
